US08530478B2
4-{[(3S)-3-methyl-4-(2-pyridinylcarbonyl)-1-piperazinyl]sulfonyl}benzonitrile
To a solution of (2S)-2-methyl-1-(2-pyridinylcarbonyl)piperazine dihydrochloride (Description 16) (71 mg, 0.255 mmol) in DCM (3 ml) was added DIPEA (0.183 ml, 1.046 mmol) at room temperature and to it was slowly added 4-cyanobenzenesulfonyl chloride (56.6 mg, 0.281 mmol) and the resultant mixture then stirred for 3 h. 5 ml of water and 5 ml of DCM were added and the organic layer separated with a phase separation cartridge and then evaporated under vacuum. The crude material (120 mg) was purified via Biotage (12M silica column) using a gradient [i-hex/EtOAc] ([90/10] to [40/60]). The desired fractions were then collected and concentrated to dryness giving the title compound (48 mg) as a white solid.

reactant | (2S)-2-methyl-1-(2-pyridinylcarbonyl)piperazine dihydrochloride | 0.255 mmol, 71 mg | Cl.Cl.C[C@@H]1N(CCNC1)C(=O)C1=NC=CC=C1
reactant | DIPEA | 1.046 mmol, 0.183 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-cyanobenzenesulfonyl chloride | 0.281 mmol, 56.6 mg | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | water | 5 ml | O | H2O
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-{[(3S)-3-methyl-4-(2-pyridinylcarbonyl)-1-piperazinyl]sulfonyl}benzonitrile | 48 mg | C[C@H]1CN(CCN1C(=O)C1=NC=CC=C1)S(=O)(=O)C1=CC=C(C#N)C=C1 | C18H18N4O3S
